US08114872B2
2-Fluoro-5-(1-methoxymethoxy-ethyl)-pyridine
Add diisopropylethylamine and chloromethoxymethane to a solution of 1-(6-fluoro-pyridin-3-yl)-ethanol (3.0 g, 21.3 mmol) in DCM at 0° C. Continue to stir the mixture for 30 min at 0° C., then overnight at RT. Dilute the mixture with chloroform/IPA (3/1). Wash the solution with saturated aqueous sodium chloride. Dry it over sodium sulfate. Concentrate the solution in vacuo to a dark residue. Purify by column chromatography (hexane→20% ethyl acetate in hexane) to afford the title compound as a colorless solid (3 g, 66%). MS (ES) m/z 186 [M+1]+.

reactant | diisopropylethylamine | C(C)(C)N(CC)C(C)C | C8H19N
reactant | chloromethoxymethane | ClCOC | C2H5ClO
reactant | 1-(6-fluoro-pyridin-3-yl)-ethanol | 21.3 mmol, 3.0 g | FC1=CC=C(C=N1)C(C)O | C7H8FNO
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | chloroform isopropyl alcohol | C(Cl)(Cl)Cl.C(C)(C)O
product | 2-Fluoro-5-(1-methoxymethoxy-ethyl)-pyridine | 3 g, 66% | FC1=NC=C(C=C1)C(C)OCOC | C9H12FNO2
